US07176242B2
To a stirred solution of 1-(dipropylamino)isoquinoline-7-carboxylic acid (103 mg, 0.38 mmol), (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (154 mg, 0.38 mmol), HOBt (77 mg, 0.57 mmol), and DIPEA (0.2 mL, 1.1 mmol) in methylene chloride (4 mL) was added HATU (216 mg, 0.57 mmol). The reaction mixture was stirred overnight and then partitioned between methylene chloride and 1 N hydrochloric acid. The organic layer was washed with saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9:1 chloroform/methanol) gave N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1-(dipropylamino)isoquinoline-7-carboxamide (70 mg): mp: 142–151° C.; APCI MS m/z 589 [M+H]+

reactant | 1-(dipropylamino)isoquinoline-7-carboxylic acid | 0.38 mmol, 103 mg | C(CC)N(C1=NC=CC2=CC=C(C=C12)C(=O)O)CCC | C16H20N2O2
reactant | (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.38 mmol, 154 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | HOBt | 0.57 mmol, 77 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.1 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.57 mmol, 216 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1-(dipropylamino)isoquinoline-7-carboxamide | 70 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=CC=C3C=CN=C(C3=C2)N(CCC)CCC)C=C(C1)F | C35H42F2N4O2
